US06235787B1
A solution of 0.60 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide, 0.166 ml isobutyraldehyde and a crystal of 4-toluenesulphonic acid in 10 ml of dichloromethane was stirred for 1 hour over 4 Å molecular sieves. The mixture was filtered and the solvent was evaporated and replaced with 10 ml of methanol. A few crystals of bromocresol green were added to give a yellow solution. To this was added 0.116 g of sodium cyanoborohydride in small batches. The yellow colour of the solution was maintained by the periodic addition of a 4M solution of hydrogen chloride in dioxane. The methanol was evaporated and the residue was partitioned between dichloromethane and 5% aqueous sodium hydrogen carbonate solution. The aqueous layer was washed twice with dichloromethane and then the combined organic layers were washed twice with 5% aqueous sodium hydrogen carbonate solution. The dichloromethane layer was dried over anhydrous magnesium sulphate and the solvent was evaporated. The residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (7:3) for the elution. There was obtained 0.312 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide | 0.60 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN)CC(C)C | C21H32N2O3
reactant | isobutyraldehyde | 0.166 ml | C(C(C)C)=O | C4H8O
reactant | 4-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium cyanoborohydride | 0.116 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.312 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C | C26H42N2O5S
